US07432258B2
b) N1-[1-(4′-chloro-4-biphenylyl)-2-(1-pyrrolidinyl)ethyl]-N2-(3,4-dichlorophenyl)-N1,N2-dimethylglycinamide
N1-[1-(4-bromophenyl)-2-(1-pyrrolidinyl)ethyl]-N2-(3,4-dichlorophenyl)-N1,N2-dimethylglycinamide (50 mg, 0.100 mmol) was dissolved in 500 uL of 1,4-Dioxane and combined with (4-chlorophenyl)boronic acid (23 mg, 0.150 mmol), Pd(dppf)2Cl2 (2 mg, 0.003 mmol), and 300 uL of 1M Na2CO3 in water in a glass reaction tube (0.5-2.0 mL Smith Process Vial) that was equipped with a magnetic stir bar. The tube was fitted with a rubber septum and hermetically sealed with a crimped metal foil seal. Using a Personal Chemistry Emrys Optimizer microwave unit, the reaction mixture was magnetically stirred and irradiated with microwave energy of dynamically adjusted power in order to maintain a temperature of 185° C. for 360 seconds. Ethyl acetate (2 mL) and brine (2 mL) were added and the reaction mixture was filtered. The organic layer was separated and the solvent was removed under reduced pressure. The residue was dissolved in 1.0 mL DMSO and purified by preparative HPLC (Phenomenex 75×30 mm column, 40 mL/min flow rate, A: 0.1% TFA in acetonitrile B: 0.1% TFA in water, A: 10 to 100% over 15 min, UV detection at 215 nm) to give 25 mg (47%) of the title compound as a tan solid. MS (ES) m/e 530/532 [M+H]+.

reactant | N1-[1-(4-bromophenyl)-2-(1-pyrrolidinyl)ethyl]-N2-(3,4-dichlorophenyl)-N1,N2-dimethylglycinamide | 0.100 mmol, 50 mg | BrC1=CC=C(C=C1)C(CN1CCCC1)N(C(CN(C)C1=CC(=C(C=C1)Cl)Cl)=O)C | C22H26BrCl2N3O
reactant | (4-chlorophenyl)boronic acid | 0.150 mmol, 23 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 1M, 300 uL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,4-Dioxane | 500 uL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | brine | 2 mL | [Cl-].[Na+].O
catalyst | Pd(dppf)2Cl2 | 0.003 mmol, 2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N1-[1-(4′-chloro-4-biphenylyl)-2-(1-pyrrolidinyl)ethyl]-N2-(3,4-dichlorophenyl)-N1,N2-dimethylglycinamide | 25 mg, 47% | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(CN1CCCC1)N(C(CN(C)C1=CC(=C(C=C1)Cl)Cl)=O)C | C28H30Cl3N3O
